US08754226B2
2-Fluoro-5-methylphenol (5.0 g, 40 mmol) was dissolved in chloroform (200 mL). Tetrabutylammonium tribromide (19 g, 40 mmol) was added and the reaction stirred at ambient temperature for 30 minutes. The reaction was concentrated and purified over silica gel (20% EtOAc in hexanes) to afford 4-bromo-2-fluoro-5-methylphenol (7.8 g, 38 mmol, 96% yield) as an amber oil.

reactant | 2-Fluoro-5-methylphenol | 40 mmol, 5.0 g | FC1=C(C=C(C=C1)C)O | C7H7FO
reactant | Tetrabutylammonium tribromide | 40 mmol, 19 g | [Br-].[Br-].[Br-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-bromo-2-fluoro-5-methylphenol | 38 mmol, 7.8 g, 96% yield | BrC1=CC(=C(C=C1C)O)F | C7H6BrFO
